US04398939
N-(Butylaminocarbonyl)-4-nitrothiophene-2-sulfonamide
A stirred suspension of 10 g of 4-nitrothiophene-2-sulfonamide, 6 g of n-butyl isocyanate and 7 g of anhydrous potassium carbonate in 100 ml of acetone was heated to reflux for 3 hours. The resultant viscous mixture was poured into ice-water and the pH adjusted to 2 by the addition of concentrated hydrochloric acid. The resulting tarry precipitate thus obtained was extracted into methylene chloride, separated from the aqueous phase, dried over magnesium sulfate, filtered and concentrated in-vacuo. The residue which showed absorption peaks by NMR at 0.7 to 1.7 (multiplet), consistent for butyl and at 8.3 and 8.5, consistent for the thiophene ring was used without further purification in the following example.

reactant | 4-nitrothiophene-2-sulfonamide | 10 g | [N+](=O)([O-])C=1C=C(SC1)S(=O)(=O)N | C4H4N2O4S2
reactant | n-butyl isocyanate | 6 g | C(CCC)N=C=O | C5H9NO
reactant | potassium carbonate | 7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-(Butylaminocarbonyl)-4-nitrothiophene-2-sulfonamide | C(CCC)NC(=O)NS(=O)(=O)C=1SC=C(C1)[N+](=O)[O-] | C9H13N3O5S2
